US04602006
PREPARATION X 2-Propargylhexanoic Acid
Proceeding similarly, but replacing ethyl 2-carboethoxy-2-propargylhexanoate with ethyl 2-benzyl-2-carboethoxy-4-hexynoate, 2-benzyl-4-hexynoic acid is prepared.

reactant | ethyl 2-benzyl-2-carboethoxy-4-hexynoate | C(C1=CC=CC=C1)C(C(=O)OCC)(CC#CC)C(=O)OCC | C18H22O4
reactant | 2-benzyl-4-hexynoic acid | C(C1=CC=CC=C1)C(C(=O)O)CC#CC | C13H14O2
product | 2-Propargylhexanoic Acid | C(C#C)C(C(=O)O)CCCC | C9H14O2
